US05187156
To a solution of Boc-His(Tos)-OH (0.81 g) in methylene chloride (10 ml) were added NMM (0.22 ml) and isobutyl chloroformate (0.26 ml) successively at -15° C., and the mixture was stirred for ten minutes. On the other hand, a solution of HCl.H-D-Trp(CHO)-Phe-OBzl (1.00 g) in DMF (20 ml) was cooled at -30° C. and thereto was added NMM (0.22 ml). This solution was added to the above mentioned mixture and stirred for two hours at -30° C. After evaporation and extraction with ethyl acetate, the organic layer was washed successively with 2% hydrochloric acid, water, 2% sodium hydrogencarbonate, water and saturated sodium chloride solution, and dried over magnesium sulfate. After evaporation, the residue was subjected to column chromatography on silica gel (100 g) and eluted with a mixture of chloroform and methanol (100:1). The fractions containing the object compound were combined and evaporated. The residue was pulverized with n-hexane, filtered, washed with n-hexane and dried to give Boc-His(Tos)-D-Trp(CHO)-Phe-OBzl (1.42 g).

reactant | Boc-His(Tos)-OH | 0.81 g | N([C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)O)C(=O)OC(C)(C)C | C18H23N3O6S
reactant | NMM | 0.22 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.26 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | HCl | Cl | ClH
reactant | H-D-Trp(CHO)-Phe-OBzl | 1.00 g | N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C28H27N3O4
reactant | NMM | 0.22 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Boc-His(Tos)-D-Trp(CHO)-Phe-OBzl | 1.42 g | N([C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C46H48N6O9S
